US07074819B2
Step 3) Synthesis of 4-[9-(t-butyldimethylsilyloxy)-4,7-dioxa-1-nonynyl]-4-hydroxy-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylthiochroman
To a solution of 9-(t-butyldimethylsilyloxy)-4,7-dioxa-1-nonyne (1.03 g, 4.01 mmol) in dry tetrahydrofuran (10 ml) was added dropwise -n-butyl lithium (2.3 ml, 3.74 mmol, 1.63 mole/l in tetrahydrofuran) at −78° C., which was then stirred at −20° C. for 1 hour. Then, to this reaction mixture was added 7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylthiochroman-4-one (1.0 g, 2.67 mmol) dissolved in tetrahydrofuran (10 ml) at the same temperature for 30 min, and the resulting mixture was stirred at −10° C. (for 24 hours. After the reaction was completed, saturated ammonium chloride solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography (n-hexane:ethyl acetate=4:1) to give the title compound (1.15 g, yield: 68%) as a colorless oil.

reactant | 9-(t-butyldimethylsilyloxy)-4,7-dioxa-1-nonyne | 4.01 mmol, 1.03 g | [Si](C)(C)(C(C)(C)C)OCCOCCOCC#C | C13H26O3Si
reactant | n-butyl lithium | 3.74 mmol, 1.63 mole/l, 2.3 ml | C(CCC)[Li]
reactant | 7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylthiochroman-4-one | 2.67 mmol, 1.0 g | COCOC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)OCOC)=O | C20H22O5S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[9-(t-butyldimethylsilyloxy)-4,7-dioxa-1-nonynyl]-4-hydroxy-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylthiochroman | 1.15 g, yield: 68% | [Si](C)(C)(C(C)(C)C)OCCOCCOCC#CC1(C(CSC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC)O | C33H48O8SSi
